US09416132B2
To a solution of 3-(3-chlorophenyl)-N-(1,4-dioxaspiro[4.5]decan-8-yl)imidazo[1,2-b]pyridazin-6-amine (210 mg, 0.55 mmol) in THF (3 mL) was added 3 N HCl (3 mL). The resulting mixture was stirred at room temperature for 2 h. TLC (EtOAc) showed the reaction was complete. The mixture was poured into sat. NaHCO3 (aq) and extracted with EtOAc (100 mL×3). The organic layers were dried over Na2SO4, filtered and concentrated in vacuo to give 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanone (190 mg, 102%) as a yellow solid.

reactant | 3-(3-chlorophenyl)-N-(1,4-dioxaspiro[4.5]decan-8-yl)imidazo[1,2-b]pyridazin-6-amine | 0.55 mmol, 210 mg | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC2CCC1(OCCO1)CC2 | C20H21ClN4O2
reactant | HCl | 3 N, 3 mL | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexanone | 190 mg, 102% | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NC2CCC(CC2)=O | C18H17ClN4O
